US05208250
To a stirred solution of 6.0 g (0.031 mole) of 6-methoxy-2-benzofurancarboxylic acid (A. McGookin, A. Robertson, and W. B. Whalley, J. Chem. Soc. 787 (1940)) in 100 ml of tetrahydrofuran (under a nitrogen atmosphere) was added in one portion, 3.3 ml (4.8 g; 0.038 mole) of oxalyl chloride. The mixture was stirred for 5 minutes, then treated with 3 drops of N,N-dimethylformamide. After stirring at room temperature for 2 hours, the solvent was evaporated to leave a residue of crude 6-methoxy-2-benzofurancarbonyl chloride, mp 96°-99° (a mp of 101° is given by A. McGookin, etc., cited above). The residue was re-dissolved in 100 ml of dichloromethane, and the solution was filtered. The filtrate was added dropwise over 20 minutes to an ice-cooled solution of 3.6 g (0.037 mole) of N,0-dimethylhydroxylamine hydrochloride and 9.4 ml (7.7 g; 0.077 mole) of 1-methylpiperidine in 100 ml of dichloromethane. After stirring for 2 hours, the mixture was added to 400 ml of ice-cold 5% aqueous hydrochloric acid. The layers were separated, and the aqueous layer was extracted with fresh dichloromethane (3× 100 ml). The combined organic layers were washed with water (1× 200 ml), 3% aqueous sodium bicarbonate (2× 200 ml), and water again. The extracts were dried (anhydrous magnesium sulfate) and evaporated. Trituration of the residue with ether yielded 5.4 g (74% yield) of the analytically pure amide product, mp 73°-77°.

reactant | 6-methoxy-2-benzofurancarboxylic acid | 0.031 mole, 6.0 g | COC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C10H8O4
reactant | oxalyl chloride | 0.038 mole, 3.3 ml, 4.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 6-methoxy-2-benzofurancarbonyl chloride | COC1=CC2=C(C=C(O2)C(=O)Cl)C=C1 | C10H7ClO3
